* Does the trim actually cover the process spread, and is it monotonic?
* Sweeps all 8 codes in the real PTAT loop and reports the resulting unit
* current -- the number the rest of the chip is referenced to.
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include rptat_trim.inc
.param a=0 b=0 c=0
VDD vdd 0 3.3
VSS VSUB 0 0
VT0 t0 0 'a*3.3'
VT1 t1 0 'b*3.3'
VT2 t2 0 'c*3.3'
XMPP1 nb  pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=16 L=8
XMPP2 pbias pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=16 L=8
XQP1 nb nb VSUB VSUB sky130_fd_pr__npn_05v5_W1p00L1p00
XQP2 pbias nb ne2 VSUB sky130_fd_pr__npn_05v5_W1p00L2p00
XR ne2 VSUB t0 t1 t2 rptat_trim
XSL1 nsl1 nsl1 pbias vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8
XSL2 nsl2 nsl2 nsl1 vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8
XSL3 nsl3 nsl3 nsl2 vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8
XSL4 nd12 nd12 nsl3 vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8
RD1 vdd nd12 210k
XMON nmon pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=16 L=8
VM nmon 0 1.0
.control
set filetype=ascii
echo > rptat_trim.txt
foreach cc 0 1
 foreach bb 0 1
  foreach aa 0 1
    alterparam a = $aa
    alterparam b = $bb
    alterparam c = $cc
    reset
    op
    echo $cc$bb$aa $&i(VM) $&v(ne2) >> rptat_trim.txt
  end
 end
end
echo TRIM_DONE
.endc
.end
